US05288742
Using an analogous procedure to that described in Example 1, 6-bromomethyl-1-methyl-1,2-dihydroquinolin-2-one was reacted with 3-ethyl-3-(3-hydroxyphenyl)pentan-2-one to give 3-ethyl-3-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]pentan-2-one in 40% yield as a gum.

reactant | 6-bromomethyl-1-methyl-1,2-dihydroquinolin-2-one | BrCC=1C=C2C=CC(N(C2=CC1)C)=O | C11H10BrNO
reactant | 3-ethyl-3-(3-hydroxyphenyl)pentan-2-one | C(C)C(C(C)=O)(CC)C1=CC(=CC=C1)O | C13H18O2
product | 3-ethyl-3-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]pentan-2-one | 40% yield | C(C)C(C(C)=O)(CC)C1=CC(=CC=C1)OCC=1C=C2C=CC(N(C2=CC1)C)=O | C24H27NO3
